US06348474B1
3-(2-Chloro-4-phenylbenzyl)-5-(methoxycarbonyl)-2-methylbenzo[b]furan
To unpurified 3-(4-bromo-2-chlorobenzyl)-5-(methoxycarbonyl)-2-methylbenzo[b]furan (4.00 g) were added a solution of phenylboric acid (1.34 g) in ethanol (3 ml), tetrakis(triphenylphosphine)palladium (0.40 g), sodium carbonate (1.59 g), water (7.50 g) and toluene (30 ml) and the mixture was heated under reflux for 80 min. After cooling, the insoluble matter was removed by filtration through Celite and the filtrate was washed with ethyl acetate and water. Saturated brine was added to the filtrate. The organic layer was separated, dried over anhydrous magnesium sulfate and concentrated to give an oil (3.50 g) containing the object compound as main component. The oil was used in the next step without purification.

reactant | 3-(4-bromo-2-chlorobenzyl)-5-(methoxycarbonyl)-2-methylbenzo[b]furan | 4.00 g | BrC1=CC(=C(CC=2C3=C(OC2C)C=CC(=C3)C(=O)OC)C=C1)Cl | C18H14BrClO3
reactant | phenylboric acid | 1.34 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | sodium carbonate | 1.59 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 7.50 g | O | H2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.40 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2-Chloro-4-phenylbenzyl)-5-(methoxycarbonyl)-2-methylbenzo[b]furan | 3.50 g | ClC1=C(CC=2C3=C(OC2C)C=CC(=C3)C(=O)OC)C=CC(=C1)C1=CC=CC=C1 | C24H19ClO3
